US07211538B2
c) Preparation of lithium (3-trimethylsiloxy-propyl)-cyclopentadienide
To a solution of 2.62 g (13.4 mmol) of (3-trimethylsiloxypropyl)-cyclopentadiene in ether, 5.36 ml of a 2.5 M (13.4 mmol) butyl lithium solution in hexane is added at −78° C. The immediate formation of a white solid is observed. The reaction is maintained under stirring for 2 hours; then, the white suspension is brought to dryness, the resulting solid is washed twice with hexane and a powdery white solid is obtained. (2.3 g, 11.4 mmol. Yield: 85%).

reactant | (3-trimethylsiloxypropyl)-cyclopentadiene | 13.4 mmol, 2.62 g | C[Si](OCCCC1=CC=CC1)(C)C | C11H20OSi
reactant | butyl lithium | 13.4 mmol, 2.5 M | C(CCC)[Li]
solvent | ether | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | lithium (3-trimethylsiloxy-propyl)-cyclopentadienide | Yield: 85% | C[Si](OCCC[C-]1C=CC=C1)(C)C.[Li+] | InChI=1S/C11H19OSi.Li/c1-13(2,3)12-10-6-9-11-7-4-5-8-11;/h4-5,7-8H,6,9-10H2,1-3H3;/q-1;+1
